### PR TITLE
[Merged by Bors] - chore(GroupTheory/DoubleCoset): simpler proof

### PR DESCRIPTION
**Pull request by JX-Mo**
Remove a duplicate lemma and shorten a later proof accordingly. The following lemma has a confusing order (g, g', hg, hg', heq) conflicting with the convention elsewhere (g, hg, g' hg', heq)
```
lemma mk_out_eq_mul (H K : Subgroup G) (g : G) :
    ∃ h k : G, h ∈ H ∧ k ∈ K ∧ (mk H K g : Quotient ↑H ↑K).out = h * g * k := by
```
The content itself the same as standard API combination `eq.mp (out_eq' (mk H K g))` (up to the confusing reordering).

- [x] depends on: #43382

### CODE REVIEW

**Comment by tb65536** [comment]
Btw, for something like this where the PR title is not super descriptive, I think
```
chore(GroupTheory/DoubleCoset): remove a duplicate lemma
```
would be helpful for reviewers scanning through the list of PRs.

File: Mathlib/GroupTheory/DoubleCoset.lean [hunk 1]
```diff
@@ -129,12 +129,6 @@ lemma eq {H K : Subgroup G} {a b : G} :
 lemma out_eq' {H K : Subgroup G} (q : Quotient ↑H ↑K) : mk H K q.out = q :=
   Quotient.out_eq' q
 
-lemma mk_out_eq_mul (H K : Subgroup G) (g : G) :
-    ∃ h k : G, h ∈ H ∧ k ∈ K ∧ (mk H K g : Quotient ↑H ↑K).out = h * g * k := by
-  obtain ⟨h, h_h, k, hk, T⟩ := eq.mp (out_eq' (mk H K g))
-  refine ⟨h⁻¹, k⁻¹, H.inv_mem h_h, K.inv_mem hk, eq_mul_inv_of_mul_eq (eq_inv_mul_of_mul_eq ?_)⟩
-  rw [← mul_assoc, ← T]
```
Comment (tb65536) [inline Mathlib/GroupTheory/DoubleCoset.lean:136]: Can you deprecate with the golfed proof instead of deleting?

Comment (JX-Mo) [reply Mathlib/GroupTheory/DoubleCoset.lean:136]: I think the following would be a standard form
```
lemma mk_out_eq_mul (H K : Subgroup G) (g : G) :
    ∃ h ∈ H, ∃ k ∈ K, g = h * (mk H K g : Quotient ↑H ↑K).out * k :=
  eq.mp (out_eq' (mk H K g))
```
To use this lemma, you write `mk_out_eq_mul H K g`, which isn't shorter enough to keep this lemma...

Comment (tb65536) [reply Mathlib/GroupTheory/DoubleCoset.lean:136]: But it should still be deprecated in case it is used downstream. Then it will get auto-deleted after 6 months.

Comment (tb65536) [reply Mathlib/GroupTheory/DoubleCoset.lean:136]: And e.g., add a deprecation comment saying "Use `eq.mp (out_eq' (mk H K g))` instead".

Comment (JX-Mo) [reply Mathlib/GroupTheory/DoubleCoset.lean:136]: and what is the convention of deprecate?

Comment (JX-Mo) [reply Mathlib/GroupTheory/DoubleCoset.lean:136]: Ah, that makes sense

File: Mathlib/GroupTheory/DoubleCoset.lean [hunk 2]
```diff
@@ -129,11 +129,11 @@ lemma eq {H K : Subgroup G} {a b : G} :
 lemma out_eq' {H K : Subgroup G} (q : Quotient ↑H ↑K) : mk H K q.out = q :=
   Quotient.out_eq' q
 
+@[deprecated "Use `eq.mp (out_eq' (mk H K g))` instead." (since := "2026-09-04")]
 lemma mk_out_eq_mul (H K : Subgroup G) (g : G) :
     ∃ h k : G, h ∈ H ∧ k ∈ K ∧ (mk H K g : Quotient ↑H ↑K).out = h * g * k := by
-  obtain ⟨h, h_h, k, hk, T⟩ := eq.mp (out_eq' (mk H K g))
-  refine ⟨h⁻¹, k⁻¹, H.inv_mem h_h, K.inv_mem hk, eq_mul_inv_of_mul_eq (eq_inv_mul_of_mul_eq ?_)⟩
-  rw [← mul_assoc, ← T]
+  obtain ⟨h ,hh, k, hk, heq⟩ := eq.mp (out_eq' (mk H K g)).symm
```
Comment (tb65536) [inline Mathlib/GroupTheory/DoubleCoset.lean]:
```suggestion
  obtain ⟨h, hh, k, hk, heq⟩ := eq.mp (out_eq' (mk H K g)).symm
```

Comment (JX-Mo) [reply Mathlib/GroupTheory/DoubleCoset.lean]: thanks!

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by faenuccio** [comment]
But is this really a duplicate? I agree we obtain the same result, but the old name is more descriptive. I appreciate (and would like to merge) the new, better proof: by why getting rid of the old one, @tb65536 ?

**Comment by JX-Mo** [comment]
> But is this really a duplicate? I agree we obtain the same result, but the old name is more descriptive. I appreciate (and would like to merge) the new, better proof: by why getting rid of the old one, @tb65536 ?

It is never used elsewhere and can be obtained in a standard way. Note that we also have a version in `QuotientGroup` version (which also has zero reference though)
```
/-- It can be useful to write `obtain ⟨h, H⟩ := mk_out_eq_mul ...`, and then `rw [H]` or
`simp_rw [H]` or `simp only [H]`. In order for `simp_rw` and `simp only` to work, this lemma is
stated in terms of an arbitrary `h : s`, rather than the specific `h = g⁻¹ * (mk g).out`. -/
@[to_additive /-- It can be useful to write
`obtain ⟨h, H⟩ := mk_out_eq_add ...`, and then `rw [H]` or `simp_rw [H]` or `simp only [H]`. In
order for `simp_rw` and `simp only` to work, this lemma is stated in terms of an arbitrary `h : s`,
rather than the specific `h = -g + (mk g).out`. -/]
theorem mk_out_eq_mul (g : α) : ∃ h : s, (mk g : α ⧸ s).out = g * h :=
  ⟨⟨_, QuotientGroup.eq.mp (out_eq' (mk g)).symm⟩, by simp⟩
```
But in the `QuotientGroup` context, the `QuotientGroup.eq` is not stated as `∃` form:
```
protected theorem eq {a b : α} : (a : α ⧸ s) = b ↔ a⁻¹ * b ∈ s := by
```
Here `DoubleCoset.eq` is already the `∃` form
```
lemma eq {H K : Subgroup G} {a b : G} :
    mk H K a = mk H K b ↔ ∃ h ∈ H, ∃ k ∈ K, b = h * a * k := by
```
The reasoning from `QuotientGroup` that "It can be useful to write `obtain ⟨h, H⟩ := mk_out_eq_mul ...`" no longer holds. From the zero reference judging, it's probably harmless to drop it.


I am not object to keep it if you think it has a nice name. If so, we'd better make it the standard form as I suggested above
> ```
> lemma mk_out_eq_mul (H K : Subgroup G) (g : G) :
>     ∃ h ∈ H, ∃ k ∈ K, g = h * (mk H K g : Quotient ↑H ↑K).out * k :=
>   eq.mp (out_eq' (mk H K g))
> ```

**Comment by faenuccio** [comment]
@JX-Mo Thanks for your comments. I think it would be nice to keep it rather than deprecated it, but I agree in re-framing it in the standard form that you suggest. Great if you can implement this, and then ping me.

**Comment by JX-Mo** [comment]
> @JX-Mo Thanks for your comments. I think it would be nice to keep it rather than deprecated it, but I agree in re-framing it in the standard form that you suggest. Great if you can implement this, and then ping me.

@faenuccio Done!

**Comment by faenuccio** [comment]
thanks!

bors merge
